US07662812B2
4-(1H-Indol-5-yl)-2-methyl-but-3-yn-2-ol (Intermediate compound)
A mixture of 5-iodoindole (25 g, 102.9 mmol), triphenylphosphine (2.70 g, 10.3 mmol), CuI (1.96 g, 10.3 mmol), potassium carbonate (35.5 g, 257.2 mmol), palladium (5 wt. % on calcium carbonate, poisoned with lead) (0.55 g, 5.14 mmol) and 1,2-dimethoxyethane (250 ml) was stirred at room temperature for 0.5 hour. 2-Methyl-3-butyn-2-ol (21.6 g, 257 mmol) was added and the mixture was stirred for 15 hours at 100° C. The crude mixture was filtered through silica gel and aqueous hydrochloric acid (250 ml, 2 M) was added and extracted with toluene. The organic phase was dried and evaporated. Chromatography on silica gel with dichloromethane, 10% methanol and 1% aqueous ammonia as solvent gave the title compound. Yield 6.7 g (33%). Mp. 119-123° C.

reactant | 5-iodoindole | 102.9 mmol, 25 g | IC=1C=C2C=CNC2=CC1 | C8H6IN
reactant | triphenylphosphine | 10.3 mmol, 2.70 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | potassium carbonate | 257.2 mmol, 35.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-Methyl-3-butyn-2-ol | 257 mmol, 21.6 g | CC(C)(C#C)O | C5H8O
catalyst | CuI | 10.3 mmol, 1.96 g | [Cu]I
catalyst | palladium | 5.14 mmol, 0.55 g | [Pd] | Pd
solvent | 1,2-dimethoxyethane | 250 ml | COCCOC | C4H10O2
product | 4-(1H-Indol-5-yl)-2-methyl-but-3-yn-2-ol | N1C=CC2=CC(=CC=C12)C#CC(C)(O)C | C13H13NO
